US07094781B2
Benzylsulfamic acid [6-chloro-2-(2-cyano-pyridin-4-yl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide (4.17 g) was dissolved in DMF (55 ml). Sodium azide (5.2 g) and ammonium chloride (4.28 g) were added and the mixture was stirred for 20 h at 80° C. Then the mixture was pored onto water and extracted with EtOAc. The layers were separated and the water layer was acidified with acetic acid to pH ˜5 and extracted with EtOAc. The combined organic layers from the 2nd extraction were washed with brine, dried over magnesium sulfate, filtered and evaporated. The crude material was purified by chromatography over silicagel with EtOAc/MeOH/ammonia=5/1/0.5 to give benzylsulfamic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazol-5-yl)-pyridin-4-yl]-pyrimidin-4-yl]-amide (1.67 g). LC-MS: tR=5.02; [M+H]+=566.36.

reactant | Benzylsulfamic acid [6-chloro-2-(2-cyano-pyridin-4-yl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 4.17 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C#N)NS(NCC1=CC=CC=C1)(=O)=O)OC1=C(C=CC=C1)OC | C24H19ClN6O4S
reactant | Sodium azide | 5.2 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.28 g | [Cl-].[NH4+]
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
product | benzylsulfamic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazol-5-yl)-pyridin-4-yl]-pyrimidin-4-yl]-amide | 1.67 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C1=NN=NN1)NS(NCC1=CC=CC=C1)(=O)=O)OC1=C(C=CC=C1)OC | C24H20ClN9O4S
